US08754054B2
To a solution of (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid (60 mg, 0.09 mmol) in THF (2 mL) was added polystyrene-carbodiimide (156 mg, 0.18 mmol), 1-hydroxybenzotriazole hydrate (24 mg, 0.18 mmol) and 3-(aminomethyl)pyridine (11 mg, 0.10 mmol). The reaction mixture was stirred at room temperature under nitrogen for 7 h. The reaction was filtered through a micro filter and concentrated. The crude material was purified by preparative HPLC (10:90 acetonitrile/water to 60:40 acetonitrile/water with 0.05% TFA over 10 min, then isocratic) to afford a dark red solid. The solid was dissolved in methanol (2 mL) and treated with HCl (0.20 mL, 1.25 M solution in methanol) at 0° C. The solution was concentrated and triturated with diethyl ether to afford 6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-N-(pyridin-3-ylmethyl)-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide hydrochloride as a mixture of diastereomers (12 mg, 21%) and as a red solid: 1H NMR (500 MHz, CD3OD) δ 8.84-8.80 (m, 1H), 8.80-8.65 (m, 1H), 8.64-8.58 (m, 1H), 8.10 (s, 1H), 8.09-8.06 (m, 1H), 6.63 (s, 1H), 6.16 (s, 0.3H), 6.01 (s, 0.7H), 5.20 (s, 0.3H), 4.95 (s, 0.7H), 4.67 (br s, 1H), 3.92-3.89 (m, 1H), 3.75 (s, 3H), 3.70-3.67 (m, 0.3H), 3.64-3.62 (m, 0.7H), 3.57 (s, 3H), 3.54 (s, 1H), 3.50 (s, 1H), 3.49-3.37 (m, 5H), 3.24-3.17 (m, 1H), 3.10-3.02 (m, 1H), 2.23 (s, 3H), 1.28 (d, J=6.5 Hz, 2H), 1.23 (d, J=6.5 Hz, 1H); MS (ESI−) m/z 772 (M−H); HPLC 96.7% (AUC), tR 10.53 min.

reactant | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid | 0.09 mmol, 60 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)O | C33H33NO15
reactant | 1-hydroxybenzotriazole hydrate | 0.18 mmol, 24 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 3-(aminomethyl)pyridine | 0.10 mmol, 11 mg | NCC=1C=NC=CC1 | C6H8N2
reactant | HCl | 1.25 M, 0.20 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-N-(pyridin-3-ylmethyl)-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide hydrochloride | Cl.OC1=C(C(=CC2=C1C1(C(C3=CC=4C(C(=CC(C4C(=C3C(C1(C(C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)NCC=2C=NC=CC2 | InChI=1S/C39H39N3O14.ClH/c1-15-9-18-10-23(44)39(55-5)35(50)26-20(34(49)38(39,52)27(18)30(47)24(15)36(51)41-14-17-7-6-8-40-13-17)11-19-25(29(26)46)22(43)12-21(28(19)45)42-37-33(54-4)31(48)32(53-3)16(2)56-37;/h6-9,11-13,16,23,31-33,37,42,44,46-48,52H,10,14H2,1-5H3,(H,41,51);1H/t16-,23?,31+,32-,33+,37?,38?,39?;/m0./s1
